US05811389
A solution of 24.15 g of 3,6-dimethoxy-9,9-dimethylxanthene-4-carboxaldehyde in 50 ml of absolute ethanol was treated with 50 ml of triethyl orthoformate. After the addition of 100 mg of p-toluenesulphonic acid monohydrate the mixture was boiled under reflux for 1 hour, then cooled and poured into ice-cold sodium bicarbonate solution, whereupon the mixture was extracted twice with 200 ml of ether each time. The combined extracts were washed neutral with water, dried over Na2SO4 and concentrated. The residue was purified on silica gel with hexane/ethyl acetate, whereby there were obtained 19.6 g of 3,6-dimethoxy-9,9-dimethylxanthene-4-carboxaldehyde dimethyl acetal as a pale yellow oil which crystallized slowly; m.p. 60°-62°, IR 2972, 1606, 1572, 1490 cm-1.

reactant | 3,6-dimethoxy-9,9-dimethylxanthene-4-carboxaldehyde | 24.15 g | COC=1C=CC=2C(C3=CC=C(C=C3OC2C1C=O)OC)(C)C | C18H18O4
reactant | triethyl orthoformate | 50 ml | C(OCC)(OCC)OCC | C7H16O3
reactant | p-toluenesulphonic acid monohydrate | 100 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3,6-dimethoxy-9,9-dimethylxanthene-4-carboxaldehyde dimethyl acetal | 19.6 g | COC(C1=C(C=CC=2C(C3=CC=C(C=C3OC12)OC)(C)C)OC)OC | C20H24O5
